US07517999B2
1-Allylimidazole (1.0 mL: 0.009 mol) was ice-cooled, and octyl bromide (4.8 mL: 0.028 mol) was added thereto dropwise. After the dropwise addition, the temperature was gradually increased to 25° C., and subsequently stirring was carried out continuously for 24 hours. The product was a pale brown viscous liquid. This was added dropwise to 100 mL of toluene, and a viscous liquid that separated out was recovered and dried. The same procedure was repeated once more. The viscous liquid thus obtained was made into an acetonitrile solution, active carbon that had been heated and vacuum-dried was added thereto, and stirring was carried out for about 24 hours. After the acetonitrile was distilled off, the viscous liquid was recovered with dichloromethane, and the solvent was distilled off. The 1-octyl-3-allylimidazolium bromide thus obtained was a liquid at room temperature, the amount collected was 2.47 g (yield; 89%), the glass transition temperature (Tg) was −64.5° C., and the ionic conductivity at 30° C. was 0.0926 (mS/cm). The results are given in Table 1. The structure was confirmed by 1H-NMR measurement. The results are shown below.

reactant | 1-Allylimidazole | 0.009 mol, 1.0 mL | C(C=C)N1C=NC=C1 | C6H8N2
reactant | octyl bromide | 0.028 mol, 4.8 mL | C(CCCCCCC)Br | C8H17Br
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-octyl-3-allylimidazolium bromide | yield; 89% | [Br-].C(CCCCCCC)[N+]1=CN(C=C1)CC=C | InChI=1S/C14H25N2.BrH/c1-3-5-6-7-8-9-11-16-13-12-15(14-16)10-4-2;/h4,12-14H,2-3,5-11H2,1H3;1H/q+1;/p-1
